US07648986B2
Step 1: Preparation of 3-methyl-5-nitro-1H-indazole
A solution of 2-fluoro-5-nitroacetophenone (1.57 g, 8.6 mmol) in ethylene glycol (50 mL) was added hydrazine (0.29 g, 9.0 mmol) was stirred for 2 h at room temperature and then heated at 165° C. for 24 h. The reaction mixture was cooled to room temperature, poured over EtOAc (100 mL), and extracted with H2O (2×100 mL). The organic layers was dried over Na2SO4 and the solvent was removed in vacuo. The crude product was purified by silica gel chromatography to afford a light yellow solid (0.8 g, 53%) Rf=0.2 (EtOAc/hexane, 1/3). 1H NMR CDCl3 δ 8.63 (s, 1H), 8.23 (d, 2H, J=3 Hz), 7.46 (d, 1H, J=3 Hz), 2.60 (s, 3H).

reactant | 2-fluoro-5-nitroacetophenone | 8.6 mmol, 1.57 g | CC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])F | C8H6FNO3
reactant | hydrazine | 9.0 mmol, 0.29 g | NN | H4N2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 3-methyl-5-nitro-1H-indazole | 0.8 g, 53% | CC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H7N3O2
